US06525042B1
1-[4-(2-Aminoimidazol-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 4-(2-aminoimidazol-4-yl)benzoic acid hydrochloride and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 4-(2-aminoimidazol-4-yl)benzoic acid hydrochloride | Cl.NC=1NC=C(N1)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[4-(2-Aminoimidazol-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.NC=1NC=C(N1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | InChI=1S/C24H22ClN5O3S.ClH/c25-20-7-5-19-14-21(8-6-18(19)13-20)34(32,33)30-11-9-29(10-12-30)23(31)17-3-1-16(2-4-17)22-15-27-24(26)28-22;/h1-8,13-15H,9-12H2,(H3,26,27,28);1H
